US08431563B2
To a 2-mL microwave vial was added 2-(4-(4-((4-chloro-3-pyridinyl)sulfonyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol (90 mg, 0.18 mmol), ethanol (1.5 mL) and aqueous ammonium hydroxide (1.5 mL, 39 mmol). The solution was then heated in the microwave at 110° C. for 2 h and then concentrated. The residue was diluted with saturated aqueous NaHCO3 and DCM. The solution was stirred for 5 min and then transferred onto a phase separation cartridge (Radleys Discovery Technologies) with the organic phase being collected and passed through a plug of Na2SO4. The collected solution was concentrated and purified by silica gel chromatography (0 to 5.0% MeOH/DCM) afforded 2-(4-(4-((4-amino-3-pyridinyl)sulfonyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol (63 mg) as a white solid.

reactant | 2-(4-(4-((4-chloro-3-pyridinyl)sulfonyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol | 0.18 mmol, 90 mg | ClC1=C(C=NC=C1)S(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C18H16ClF6N3O3S
reactant | ammonium hydroxide | 39 mmol, 1.5 mL | [OH-].[NH4+]
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
product | 2-(4-(4-((4-amino-3-pyridinyl)sulfonyl)-1-piperazinyl)phenyl)-1,1,1,3,3,3-hexafluoro-2-propanol | 63 mg | NC1=C(C=NC=C1)S(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C18H18F6N4O3S
